US05750545
(1) Benzoic acid 2-amidinohydrazide
A solution of benzoic acid hydrazide (10.3 g), methylisothiourea sulfate (21.0 g), sodium hydroxide (3.12 g) and water (150 ml) was stirred for 99 hours at room temperature. The resulting solid was collected by filtration and washed with water to give 8.28 g of a white solid (yield 61%).

reactant | benzoic acid hydrazide | 10.3 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | methylisothiourea sulfate | 21.0 g | S(=O)(=O)(O)O.CNC(S)=N
reactant | sodium hydroxide | 3.12 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | Benzoic acid 2-amidinohydrazide | 8.28 g, yield 61% | C(N)(=N)NNC(C1=CC=CC=C1)=O | C8H10N4O
